US03931205
To a mixture of 25 g of 7-bromomethyl-5-oxo-5H-[1]benzopyrano-[2,3-b]pyridine and 175 ml of dimethylformamide is added 5.1 g of sodium cyanide under ice cooling. The mixture is stirred at room temperature for 2 hours, and then 300 ml of water is added to the reaction mixture. The resulting crystalline precipitate is filtered off, washed with water, and recrystallized from dioxane to give 17 g of 7-cyanomethyl-5-oxo-5H-[1]-benzopyrano[2,3-b]pyridine melting at 198°-201°C.

reactant | 7-bromomethyl-5-oxo-5H-[1]benzopyrano-[2,3-b]pyridine | 25 g | BrCC=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C13H8BrNO2
reactant | dimethylformamide | 175 ml | CN(C=O)C | C3H7NO
reactant | sodium cyanide | 5.1 g | [C-]#N.[Na+]
solvent | water | 300 ml | O | H2O
product | 7-cyanomethyl-5-oxo-5H-[1]-benzopyrano[2,3-b]pyridine | 17 g | C(#N)CC=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C14H8N2O2
